US05804586
A solution of furan-2-acetonitrile (28.4 g) and 1-bromo-2-chloroethane (33.1 ml) in dimethyl sulphoxide (50 ml) was added slowly to a stirred suspenson of sodium hydride (60% dispersion in mineral oil ; 31.85 g) in dry dimethyl sulphoxide (300 ml) keeping the internal temperature just below 35° C. by occasional cooling. After stirring for 18 hours at ambient temperature the mixture was diluted with water (500 ml) and extracted with ether (1×200 then 2×100 ml). The combined extracts were dried over potassium carbonate and evaporated to an oil which was distilled at reduced pressure to give 1-(2-furyl)cyclopropanecarbonitrile (28.0 g) as a colourless oil, bp 54° C./0.55 mbar.

reactant | furan-2-acetonitrile | 28.4 g | O1C(=CC=C1)CC#N | C6H5NO
reactant | 1-bromo-2-chloroethane | 33.1 ml | BrCCCl | C2H4BrCl
reactant | sodium hydride | 31.85 g | [H-].[Na+]
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 300 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | 1-(2-furyl)cyclopropanecarbonitrile | 28.0 g | O1C(=CC=C1)C1(CC1)C#N | C8H7NO
